US04816466
A mixture of 1.75 g of tert-butyl 3-amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate and 1.1 g of ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonyloxyhexanoate is heated at 90° C. for 24 hours. After cooling, the reaction solution is diluted with 200 ml of ethyl acetate, and the resulting solution is washed with 30 ml of 5% aqueous phosphoric acid and water, successively, and dried over anhydrous magnesium sulfate. After the solvent is distilled off under reduced pressure, the residue is separated and purified by silica gel colum chromatography (hexane:ethyl acetate=2:1), whereby the first fraction yields 0.8 g of tert-butyl 3(RS)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(SR)-ethoxycarbonylpentyl]amino-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate as a colorless oil.

reactant | tert-butyl 3-amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate | 1.75 g | NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)OC(C)(C)C)=O | C16H22N2O3
reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonyloxyhexanoate | 1.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)OS(=O)(=O)C | C22H33NO7S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3(RS)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(SR)-ethoxycarbonylpentyl]amino-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate | 0.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)NC1CN(C2=C(CC1)C=CC=C2)CC(=O)OC(C)(C)C | C37H53N3O6
